US08603947B2
Step 6: Synthesis of 2-methyl-3-(methylthio)-4-(pentafluoroethyl)benzoic acid (No. 6-145)
530 mg (1.69 mmol) of methyl 2-methyl-3-(methylthio)-4-(pentafluoroethyl)benzoate were introduced into 10 ml of methanol and admixed with 0.5 ml of 20% strength aqueous sodium hydroxide solution. The contents were stirred at RT until a check on the reaction by thin-layer chromatography indicated complete conversion. The mixture was freed from the solvent, and the residue was taken up in a little water. The mixture was acidified with 1M hydrochloric acid, then stirred for 5 minutes and finally filtered. The residue obtained was 470 mg of clean product.

reactant | methyl 2-methyl-3-(methylthio)-4-(pentafluoroethyl)benzoate | 1.69 mmol, 530 mg | CC1=C(C(=O)OC)C=CC(=C1SC)C(C(F)(F)F)(F)F | C12H11F5O2S
reactant | methanol | 10 ml | CO | CH4O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | water | O | H2O
product | 2-methyl-3-(methylthio)-4-(pentafluoroethyl)benzoic acid | CC1=C(C(=O)O)C=CC(=C1SC)C(C(F)(F)F)(F)F | C11H9F5O2S
